US09193728B2
A mixture of 4-chloro-2-iodoaniline (0.5 g, 1.97 mmol), 1,3-cyclohexanedione (0.22 g, 1.96 mmol) and p-toluenesulfonic acid monohydrate (catalytic) in toluene (6 mL) were heated to reflux for 2 h. The reaction was cooled and EtOAc (50 mL) was added and the organic phase was washed with water (20 mL) and brine (20 mL), dried over sodium sulfate, filtered and evaporated to give a brown solid, which was purified by column chromatography [Silica, eluent: EtOAc:hexane to give 3-(4-chloro-2-iodophenylamino)cyclohex-2-enone as a yellow solid (0.55 g, 80%).

reactant | 4-chloro-2-iodoaniline | 1.97 mmol, 0.5 g | ClC1=CC(=C(N)C=C1)I | C6H5ClIN
reactant | 1,3-cyclohexanedione | 1.96 mmol, 0.22 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloro-2-iodophenylamino)cyclohex-2-enone | 0.55 g, 80% | ClC1=CC(=C(C=C1)NC1=CC(CCC1)=O)I | C12H11ClINO
